US07297715B2
STEP B: (2R)-2-(4-(3-((6-Chloro-2,2-dimethyl-3,4-dihydro-2H-chromen-7-yl)oxy)propoxy)phenoxy)-2-methylbutanoic acid
The title compound was prepared following the procedure described in Example 1, Steps F-G employing (2R)-methyl 2-(4-(3-hydroxypropoxy)phenoxy)-2-methylbutanoate and 6-Chloro-2,2-dimethylchroman-7-ol.

reactant | (2R)-methyl 2-(4-(3-hydroxypropoxy)phenoxy)-2-methylbutanoate | OCCCOC1=CC=C(O[C@@](C(=O)OC)(CC)C)C=C1 | C15H22O5
reactant | 6-Chloro-2,2-dimethylchroman-7-ol | ClC=1C=C2CCC(OC2=CC1O)(C)C | C11H13ClO2
product | (2R)-2-(4-(3-((6-Chloro-2,2-dimethyl-3,4-dihydro-2H-chromen-7-yl)oxy)propoxy)phenoxy)-2-methylbutanoic acid | ClC=1C=C2CCC(OC2=CC1OCCCOC1=CC=C(O[C@@](C(=O)O)(CC)C)C=C1)(C)C | C25H31ClO6
